US07968570B2
A solution of 7-chloro-2-(4-trifluoromethoxy-benzyl)-5-trimethylsilanylethynyl-2,3-dihydro-isoindol-1-one (0.100 g, 0.22 mmol) in THF (1 mL) was treated with a 1M solution of tertiary-butyl amino fluoride-THF (1 mL). The reaction mixture was stirred at ambient temperature for 2 h. After this time, GC-MS indicated that the reaction was completed. The reaction solution was poured into water (7 mL) and extracted with diethyl ether (2×20 mL). The combined organic extracts were dried over anhydrous MgSO4, filtered and concentrated to afford 7-chloro-5-ethynyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one. The material was used without purification.

reactant | 7-chloro-2-(4-trifluoromethoxy-benzyl)-5-trimethylsilanylethynyl-2,3-dihydro-isoindol-1-one | 0.22 mmol, 0.100 g | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C#C[Si](C)(C)C | C21H19ClF3NO2Si
reactant | tertiary-butyl amino fluoride THF | 1 mL | C(C)(C)(C)NF.C1CCOC1
reactant | water | 7 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 7-chloro-5-ethynyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C#C | C18H11ClF3NO2
